US08461134B2
1H-Indazole-5-sulfonic acid (1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-6-yl)-amide
To a solution of 6-amino-3H-benzo[c][1,2]oxaborol-1-ol (0.385 g, 2.07 mmol) in anhydrous pyridine (30 mL) at 5° C. was added 1H-indazole-5-sulfonyl chloride (0.45 g, 2.07 mmol) and the resulting orange solution stirred at room temperature for 0.5 h. The reaction was warmed to 50° C. for 2 h and then the pyridine was removed under reduced pressure to afford a sticky residue. This was treated with water (40 mL) and sonicated for 5 h at 70° C. The fine precipitate that formed was collected by filtration, washed with water and dried in vacuo generating 0.402 g (59%) of the title compound as a yellowish orange solid. mp 222° C.; 1H NMR (400 MHz, DMSO-d6) δ (ppm): 10.21 (s, 1H), 9.19 (s, 1H), 8.24 (s, 2H), 7.67 (s, 2H), 7.48 (d, J=1.2 Hz, 1H), 7.22 (d, J=8.0 Hz, 1H), 7.17 (dd, J=8.2, 2.0 Hz, 1H), 4.84 (s, 2H); MS (ESI) m/z=330 (M+1, positive); HPLC purity: 97.30% (MaxPlot 200-400 nm), 97.30% (220 nm).

reactant | 6-amino-3H-benzo[c][1,2]oxaborol-1-ol | 2.07 mmol, 0.385 g | NC=1C=CC2=C(B(OC2)O)C1 | C7H8BNO2
reactant | 1H-indazole-5-sulfonyl chloride | 2.07 mmol, 0.45 g | N1N=CC2=CC(=CC=C12)S(=O)(=O)Cl | C7H5ClN2O2S
reactant | water | 40 mL | O | H2O
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 1H-Indazole-5-sulfonic acid (1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-6-yl)-amide | OB1OCC2=C1C=C(C=C2)NS(=O)(=O)C=2C=C1C=NNC1=CC2 | C14H12BN3O4S
